US09227976B2
Step 3: N-(4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide
Nitrogen was bubbled through a suspension of N-(4-iodo-1H-pyrazol-5-yl)acetamide (30 g, 120 mmol), 10% palladium on carbon (50% water, 7.4 g, 3 mmol), copper(I) iodide (1.14 g, 6 mmol), triphenylphosphine (6.3 g, 24 mmol) and triethylamine (50 mL, 360 mmol) in ethanol (600 mL) for 20 min. Phenyl acetylene was added and nitrogen bubbled through the mixture for a further 25 min. The reaction mixture was then heated and stirred under reflux conditions in an atmosphere of nitrogen for 3 d and cooled to room temperature. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel, iso-hexanes/ethyl acetate 9:1 to 0:1) yielding the title compound as a solid (17.6 g).

reactant | N-(4-iodo-1H-pyrazol-5-yl)acetamide | 120 mmol, 30 g | IC=1C=NNC1NC(C)=O | C5H6IN3O
reactant | triphenylphosphine | 24 mmol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 360 mmol, 50 mL | C(C)N(CC)CC | C6H15N
reactant | Phenyl acetylene | C1(=CC=CC=C1)C#C | C8H6
catalyst | palladium on carbon | 3 mmol, 7.4 g | [Pd] | Pd
solvent | ethanol | 600 mL | C(C)O | C2H6O
catalyst | copper(I) iodide | 6 mmol, 1.14 g | [Cu]I
product | N-(4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 17.6 g | C1(=CC=CC=C1)C#CC=1C=NNC1NC(C)=O | C13H11N3O
